### PR TITLE
feat(PowerSeries): add Lagrange inversion formula

### PR DESCRIPTION
**Pull request by manman4**
## What this PR adds

This PR formalizes the Lagrange inversion formula for formal power series, including:

* PowerSeries.lagrange_burmann_coeff
* PowerSeries.lagrange_inversion_coeff_pow
* PowerSeries.lagrange_burmann_coeff_div
* PowerSeries.lagrange_inversion_coeff
* PowerSeries.eq_zero_of_fixedPoint_of_constantCoeff_eq_zero

## LLM

We (Julian and I) used Aristotle and Codex for code generation and ChatGPT and Claude for cleanup.

### CODE REVIEW

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 1]
```diff
@@ -0,0 +1,227 @@
...
+
+section Field
+
+variable {K : Type*} [Field K] [CharZero K]
+
+/-- The usual coefficient form of formal Lagrange inversion for a polynomial kernel. This is the
+case `H = X`, equivalently `k = 1`, of `lagrange_burmann_coeff`. -/
+theorem lagrange_inversion_coeff (P : K[X]) (Y : K⟦X⟧)
+    (hY : Y = PowerSeries.X * Polynomial.aeval Y P) (n : ℕ) (hn : 1 ≤ n) :
+    PowerSeries.coeff n Y = (P ^ n).coeff (n - 1) / n := by
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: I wonder whether it wouldn't be better to formulate this with replacing `n` by `n+1`, so that you can avoid the hypothesis `hn` and natural number subtraction `n-1`. Similarly for the other versions.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 2]
```diff
@@ -0,0 +1,227 @@
...
+
+for a polynomial `H`, and the usual divided coefficient formula over a field of characteristic
+zero. No analytic convergence is involved.
+
+The proof is purely algebraic and follows the induction in the reference below.
+
+## References
+
+* [Erlang Surya and Lutz Warnke, *Lagrange Inversion Formula by
+  Induction*](https://arxiv.org/abs/2305.17576)
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: The published version of this should be added to references.bib instead.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 3]
```diff
@@ -0,0 +1,227 @@
...
+
+section TorsionFree
+
+variable {R : Type*} [CommRing R] [NoZeroSMulDivisors ℕ R]
+variable {P : R[X]} {Y : R⟦X⟧}
+
+private lemma natCast_mul_cancel {n : ℕ} (hn : n ≠ 0) {a b : R}
+    (h : (n : R) * a = (n : R) * b) : a = b := by
+  have hsmul : n • a = n • b := by simpa [nsmul_eq_mul] using h
+  exact smul_right_injective R hn hsmul
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: This definitely shouldn't be in this file. I'm not sure it is worth having it somewhere in the library?

Comment (JX-Mo) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
  smul_right_injective R hn (by simp [h])
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 4]
```diff
@@ -0,0 +1,227 @@
...
+    intro hm k hk
+    rcases Nat.eq_zero_or_pos k with rfl | hk0
+    · have hm0 : m ≠ 0 := by omega
+      simp [hm0]
+    obtain ⟨t, rfl⟩ : ∃ t, m = k + t := ⟨m - k, by omega⟩
+    have hcoe : PowerSeries.coeff (k + t) (Y ^ k) =
+        PowerSeries.coeff t (Polynomial.aeval Y (P ^ k)) := by
+      have hpow : Y ^ k = PowerSeries.X ^ k * Polynomial.aeval Y (P ^ k) := by
+        rw [map_pow, ← mul_pow, ← hY]
+      rw [hpow, show k + t = t + k by omega, PowerSeries.coeff_X_pow_mul]
```
Comment (JX-Mo) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
      rw [hpow, add_comm k t, PowerSeries.coeff_X_pow_mul]
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 5]
```diff
@@ -0,0 +1,227 @@
...
+  have hpow : Y ^ k = PowerSeries.X ^ k * (Polynomial.aeval Y P) ^ k := by
+    rw [← mul_pow, ← hY]
+  rw [hpow, PowerSeries.coeff_X_pow_mul']
+  simp [Nat.not_le.2 h]
+
+private lemma coeff_aeval
+    (hY : Y = PowerSeries.X * Polynomial.aeval Y P) (Q : R[X]) (j : ℕ) :
+    PowerSeries.coeff j (Polynomial.aeval Y Q) =
+      ∑ l ∈ range (j + 1), Q.coeff l * PowerSeries.coeff j (Y ^ l) := by
+  classical
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: I think the proof works without `classical`.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 6]
```diff
@@ -0,0 +1,227 @@
...
+variable {R : Type*} [CommRing R]
+variable {P : R[X]} {Y : R⟦X⟧}
+
+private lemma coeff_pow_of_lt
+    (hY : Y = PowerSeries.X * Polynomial.aeval Y P) {m k : ℕ} (h : m < k) :
+    PowerSeries.coeff m (Y ^ k) = 0 := by
+  have hpow : Y ^ k = PowerSeries.X ^ k * (Polynomial.aeval Y P) ^ k := by
+    rw [← mul_pow, ← hY]
+  rw [hpow, PowerSeries.coeff_X_pow_mul']
+  simp [Nat.not_le.2 h]
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: I don't know whether this is desirable, but all this works in one simp call with all 3.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean (hunk 4 above)
Comment (JX-Mo) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
    have hcoe : (Y ^ k).coeff (k + t)  = (Polynomial.aeval Y (P ^ k)).coeff t := by
      nth_rw 1 [hY, mul_pow, map_pow, add_comm k t, PowerSeries.coeff_X_pow_mul]
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 7]
```diff
@@ -0,0 +1,227 @@
...
+    · have hm0 : m ≠ 0 := by omega
+      simp [hm0]
+    obtain ⟨t, rfl⟩ : ∃ t, m = k + t := ⟨m - k, by omega⟩
+    have hcoe : PowerSeries.coeff (k + t) (Y ^ k) =
+        PowerSeries.coeff t (Polynomial.aeval Y (P ^ k)) := by
+      have hpow : Y ^ k = PowerSeries.X ^ k * Polynomial.aeval Y (P ^ k) := by
+        rw [map_pow, ← mul_pow, ← hY]
+      rw [hpow, show k + t = t + k by omega, PowerSeries.coeff_X_pow_mul]
+    rcases Nat.eq_zero_or_pos t with rfl | ht
+    · simp only [add_zero] at hcoe ⊢
```
Comment (JX-Mo) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: This `simp only [add_zero] at hcoe ⊢` can be removed

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 8]
```diff
@@ -0,0 +1,227 @@
...
+      rw [hcoe, coeff_aeval hY]
+      simp
+    obtain ⟨s, rfl⟩ : ∃ s, t = s + 1 := ⟨t - 1, by omega⟩
+    have hexp : PowerSeries.coeff (k + (s + 1)) (Y ^ k) =
+        ∑ l ∈ range (s + 2),
+          (P ^ k).coeff l * PowerSeries.coeff (s + 1) (Y ^ l) := by
+      rw [hcoe, coeff_aeval hY]
```
Comment (JX-Mo) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 9]
```diff
@@ -0,0 +1,227 @@
...
+    have hcoeff : ((k : R) + (s + 1)) *
+          (Polynomial.derivative (P ^ k) * P ^ (s + 1)).coeff s =
+        (k : R) * ((s : R) + 1) * (P ^ (k + (s + 1))).coeff (s + 1) := by
+      have h := congrArg (fun q : R[X] ↦ q.coeff s) hpoly
+      simp only [Polynomial.coeff_C_mul] at h
+      rw [h, Polynomial.coeff_derivative]
+      ring
+    have hsum : ((s : R) + 1) * PowerSeries.coeff (k + (s + 1)) (Y ^ k) =
+        (Polynomial.derivative (P ^ k) * P ^ (s + 1)).coeff s := by
+      rw [hexp, Finset.mul_sum, ← hconv]
```
Comment (JX-Mo) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
      rw [hcoe, coeff_aeval hY, Finset.mul_sum, ← hconv]
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean (hunk 8 above)
Comment (JX-Mo) [reply Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: `hexp` can be directly replaced by `rw [hcoe, coeff_aeval hY]` below. I think you need to clean up the LLM proof by yourself

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 10]
```diff
@@ -0,0 +1,227 @@
...
+  rw [hlhs, Nat.add_sub_cancel, Polynomial.coeff_mul,
+    Finset.Nat.sum_antidiagonal_eq_sum_range_succ_mk,
+    Finset.sum_range_succ' f (s + 1)]
+  have hzero : f 0 = 0 := by simp [hf]
+  rw [hzero, add_zero]
+  refine Finset.sum_congr rfl fun i _ ↦ ?_
+  simp only [hf, Polynomial.coeff_derivative,
+    show s + 1 - (i + 1) = s - i by omega]
+  push_cast
+  ring
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
  grind [Polynomial.coeff_derivative]
```
An expert should comment on whether using grind here is more or less appropriate.

Comment (Julian-Kuelshammer) [reply Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: If this is done, even the three lines above can be removed.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 11]
```diff
@@ -0,0 +1,225 @@
...
+    subst n
+    subst k
+    simp
+  · simpa [show n + k - k = n by omega] using
+      lagrange_inversion_coeff_pow_of_le hY (n + k) (by omega) k (by omega)
+
+private theorem lagrange_burmann_coeff_of_pos
+    (hY : Y = PowerSeries.X * Polynomial.aeval Y P) {m : ℕ} (hm : 1 ≤ m) (H : R[X]) :
+    (m : R) * PowerSeries.coeff m (Polynomial.aeval Y H) =
+      (Polynomial.derivative H * P ^ m).coeff (m - 1) := by
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: Here is another place where the replacement m -> m + 1 should be done, I think.

Comment (manman4) [reply Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: I will remove private theorem.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 12]
```diff
@@ -0,0 +1,225 @@
...
+multiplication by a positive natural number. -/
+theorem lagrange_inversion_coeff_pow
+    (hY : Y = PowerSeries.X * Polynomial.aeval Y P) (n k : ℕ) :
+    ((n + k : ℕ) : R) * PowerSeries.coeff (n + k) (Y ^ k) =
+      (k : R) * (P ^ (n + k)).coeff n := by
+  rcases eq_or_ne (n + k) 0 with hnk | hnk
+  · have hn : n = 0 := by omega
+    have hk : k = 0 := by omega
+    subst n
+    subst k
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: ChatGPT suggests the following golf:

```suggestion
  · obtain ⟨rfl, rfl⟩ := Nat.add_eq_zero_iff.mp hnk
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 13]
```diff
@@ -0,0 +1,225 @@
...
+    simp
+  · simpa [show n + k - k = n by omega] using
+      lagrange_inversion_coeff_pow_of_le hY (n + k) (by omega) k (by omega)
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
  · simpa using lagrange_inversion_coeff_pow_of_le hY (n + k) (by omega) k (by omega)
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 14]
```diff
@@ -0,0 +1,225 @@
...
+
+/-- The usual coefficient form of formal Lagrange inversion for a polynomial kernel. This is the
+case `H = X`, equivalently `k = 1`, of `lagrange_burmann_coeff`. -/
+theorem lagrange_inversion_coeff (P : K[X]) (Y : K⟦X⟧)
+    (hY : Y = PowerSeries.X * Polynomial.aeval Y P) (n : ℕ) :
+    PowerSeries.coeff (n + 1) Y = (P ^ (n + 1)).coeff n / (n + 1) := by
+  have h := lagrange_inversion_coeff_pow (P := P) hY n 1
+  simp only [pow_one, Nat.cast_one, one_mul] at h
+  apply (eq_div_iff (Nat.cast_add_one_ne_zero n)).2
+  simpa [mul_comm] using h
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: If you import field_simp, the following is a possible golf (suggested by ChatGPT):
```suggestion
  field_simp [Nat.cast_add_one_ne_zero n]
  simpa [mul_comm] using lagrange_inversion_coeff_pow (P := P) hY n 1
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 15]
```diff
@@ -0,0 +1,217 @@
...
+
+section TorsionFree
+
+variable {R : Type*} [CommRing R] [IsAddTorsionFree R]
+variable {P : R[X]} {Y : R⟦X⟧}
+
+private theorem lagrange_inversion_coeff_pow_of_le
+    (hY : Y = PowerSeries.X * Polynomial.aeval Y P) :
+    ∀ m : ℕ, 1 ≤ m → ∀ k ≤ m,
+      (m : R) * PowerSeries.coeff m (Y ^ k) = (k : R) * (P ^ m).coeff (m - k) := by
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: I definitely haven't explored it carefully enough, but I feel like also here one should do the replacement m -> m+1 (and further down in the proof t -> t+1).

Comment (manman4) [reply Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: I fixed it.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 16]
```diff
@@ -0,0 +1,217 @@
...
+public import Mathlib.Algebra.Polynomial.Derivative
+public import Mathlib.RingTheory.PowerSeries.Basic
+
+import Mathlib.Tactic.LinearCombination
+import Mathlib.Tactic.Ring
+
+/-!
+# Lagrange inversion for formal power series
+
+This file proves the polynomial-kernel form of the one-variable Lagrange inversion theorem over a
```
Comment (wwylele) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: When one search for "Lagrange inversion theorem", the wikipedia page is https://en.wikipedia.org/wiki/Lagrange_inversion_theorem, which, to put in simple words, is to find `y(x)` given `f(x)` such that `f(y(x)) = x`. But what is explained below looks different. I then realized what is proved here actually the "Lagrange–Bürmann formula" in the subsection in wikipedia, where `f(x) = x / p(x)`, and we want to find `y(x)` such that `y(x) / p(y(x)) = x`, or `y = x * p(y)` as written below. 

I assume the wikipedia naming is the widely accepted convention, then the title and doc here should use "formula" throughout, instead of "theorem".

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 17]
```diff
@@ -0,0 +1,217 @@
...
+`(n + k) * [X^(n+k)] Y^k = k * [X^n] P^(n+k)`.
+
+We also give the Lagrange–Bürmann form
+
+`(n + 1) * [X^(n+1)] H(Y) = [X^n] (H' * P^(n+1))`
+
+for a polynomial `H`, and the usual divided coefficient formula over a field of characteristic
+zero. No analytic convergence is involved.
+
+The proof is purely algebraic and follows the induction in the reference below.
```
Comment (wwylele) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: Please drop the AI-style, or straw-man defensive doc. Nobody asked mathlib to do pure algebraic proof.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 18]
```diff
@@ -0,0 +1,217 @@
...
+public import Mathlib.RingTheory.PowerSeries.Basic
+
+import Mathlib.Tactic.LinearCombination
+import Mathlib.Tactic.Ring
+
+/-!
+# Lagrange inversion for formal power series
+
+This file proves the polynomial-kernel form of the one-variable Lagrange inversion theorem over a
+commutative ring without additive torsion. Let `P` be a polynomial and let `Y` be a formal power
```
Comment (wwylele) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: The reference given below allows `P` to be a power series. What is the difficulty to directly translate the more general version?

**Review by wwylele — COMMENTED** [review]
I admittedly am not familiar with the proof, so just some comments around the introduction.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean (hunk 18 above)
Comment (JX-Mo) [reply Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: I am also confused by this

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean (hunk 16 above)
Comment (Julian-Kuelshammer) [reply Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: The terminology seems not uniform here. The reference this is based on calls this the "Lagrange inversion formula". Wikipedia discusses a second related theorem, for which to me https://arxiv.org/abs/2205.00879 seemed a good reference for the formal variant.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 19]
```diff
@@ -0,0 +1,214 @@
...
+The coefficient ring is assumed to have no additive torsion because the inductive proof cancels
+multiplication by a positive natural number. -/
+theorem lagrange_inversion_coeff_pow
+    (hY : Y = PowerSeries.X * P.subst Y) (n k : ℕ) :
+    ((n + k : ℕ) : R) * PowerSeries.coeff (n + k) (Y ^ k) =
+      (k : R) * (P ^ (n + k)).coeff n := by
+  rcases eq_or_ne (n + k) 0 with hnk | hnk
+  · obtain ⟨rfl, rfl⟩ := Nat.add_eq_zero_iff.mp hnk
+    simp
+  · simpa [show n + k - 1 + 1 = n + k by omega, show n + k - k = n by omega] using
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
  · simpa [show n + k - 1 + 1 = n + k by omega] using
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 20]
```diff
@@ -0,0 +1,214 @@
...
+    obtain ⟨t, hmt⟩ : ∃ t, m + 1 = k + t := ⟨m + 1 - k, by omega⟩
+    have hcoe : (Y ^ k).coeff (m + 1) = PowerSeries.coeff t ((P ^ k).subst Y) := by
+      rw [hmt]
+      nth_rw 1 [hY, mul_pow, ← subst_pow (hasSubst_of_fixedPoint hY), add_comm k t,
+        PowerSeries.coeff_X_pow_mul]
+    rcases t with _ | t
+    · rw [hcoe, coeff_subst_of_fixedPoint hY]
+      simp only [Nat.add_zero] at hmt
+      rw [hmt]
+      simp
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
    · rw [hcoe, coeff_subst_of_fixedPoint hY, hmt]
      simp
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean (hunk 14 above)
Comment (Julian-Kuelshammer) [reply Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: I still think you should apply this suggestion, even if you resolved the comment.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 21]
```diff
@@ -0,0 +1,214 @@
...
+    have hih : ∀ l ∈ range (t + 2),
+        ((t : R) + 1) * ((P ^ k).coeff l * PowerSeries.coeff (t + 1) (Y ^ l)) =
+          (P ^ k).coeff l * ((l : R) * (P ^ (t + 1)).coeff (t + 1 - l)) := by
+      intro l hl
+      have hl' : l ≤ t + 1 := by simpa [Nat.lt_succ_iff] using mem_range.1 hl
+      have h := ih t (by omega) l hl'
+      push_cast at h ⊢
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
      push_cast at h
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 22]
```diff
@@ -0,0 +1,214 @@
...
+* [Erlang Surya and Lutz Warnke, *Lagrange Inversion Formula by
+  Induction*][surya_warnke_2023]
+-/
+
+@[expose] public section
+
+namespace PowerSeries
+
+open Finset
+open scoped PowerSeries
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: Since you open these, you can remove a lot of `Finset` and `PowerSeries` below.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 23]
```diff
@@ -0,0 +1,214 @@
...
+          (PowerSeries.derivative (P ^ k) * P ^ (t + 1)).coeff t := by
+      rw [PowerSeries.coeff_mul, Finset.Nat.sum_antidiagonal_eq_sum_range_succ_mk]
+      rw [Finset.sum_range_succ'
+        (fun l ↦ (P ^ k).coeff l * ((l : R) * (P ^ (t + 1)).coeff (t + 1 - l)))]
+      simp only [Nat.cast_zero, mul_zero, zero_mul, add_zero, Nat.cast_add, Nat.cast_one]
+      refine Finset.sum_congr rfl fun p _ ↦ ?_
+      rw [PowerSeries.coeff_derivative, show t + 1 - (p + 1) = t - p by omega]
+      ring
+    have hpoly : PowerSeries.C ((k : R) + (t + 1)) *
+          (PowerSeries.derivative (P ^ k) * P ^ (t + 1)) =
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: Replacing PowerSeries.derivative by `d⁄dX` could help with readability and shorten the statements.

Comment (manman4) [reply Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: I used d/dx.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 24]
```diff
@@ -0,0 +1,211 @@
...
+  induction m using Nat.strong_induction_on with
+  | h m ih =>
+    intro k hk
+    rcases Nat.eq_zero_or_pos k with rfl | hk0
+    · simp
+    obtain ⟨t, hmt⟩ : ∃ t, m + 1 = k + t := ⟨m + 1 - k, by omega⟩
+    have hcoe : (Y ^ k).coeff (m + 1) = coeff t ((P ^ k).subst Y) := by
+      rw [hmt]
+      nth_rw 1 [hY, mul_pow, ← subst_pow (hasSubst_of_fixedPoint hY), add_comm k t,
+        coeff_X_pow_mul]
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
      nth_rw 1 [hmt, hY, mul_pow, ← subst_pow (hasSubst_of_fixedPoint hY), add_comm k t,
        coeff_X_pow_mul]
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 25]
```diff
@@ -0,0 +1,211 @@
...
+    H.coeff i * ((i : R) * (P ^ (n + 1)).coeff (n + 1 - i)) with hf
+  have hlhs : ((n + 1 : ℕ) : R) *
+      coeff (n + 1) (H.subst Y) =
+        ∑ i ∈ range (n + 2), f i := by
+    rw [coeff_subst_of_fixedPoint hY H, mul_sum]
+    refine sum_congr rfl fun i hi ↦ ?_
+    have hi' : i ≤ n + 1 := by simpa [Nat.lt_succ_iff] using mem_range.1 hi
+    have h := lagrange_inversion_coeff_pow_of_le hY n i hi'
+    simp only [hf]
+    rw [← h]
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
    simp only [hf, ← lagrange_inversion_coeff_pow_of_le hY n i hi']
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 26]
```diff
@@ -0,0 +1,211 @@
...
+    ring
+  rw [hlhs, coeff_mul, Nat.sum_antidiagonal_eq_sum_range_succ_mk,
+    sum_range_succ' f (n + 1)]
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
  rw [hlhs, coeff_mul, Nat.sum_antidiagonal_eq_sum_range_succ_mk, sum_range_succ' f (n + 1)]
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 27]
```diff
@@ -0,0 +1,211 @@
...
+      ∑ l ∈ range (j + 1), Q.coeff l * coeff j (Y ^ l) := by
+  rw [coeff_subst' (hasSubst_of_fixedPoint hY),
+    finsum_eq_sum_of_support_subset (s := range (j + 1))]
+  · simp [smul_eq_mul]
+  · intro l hl
+    simp only [mem_coe, mem_range]
+    by_contra hlj
+    have hjl : j < l := by omega
+    have hl := Function.mem_support.mp hl
+    simp [coeff_pow_of_lt hY hjl] at hl
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
    simp [coeff_pow_of_lt hY (by omega : j < l)] at hl
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean (hunk 25 above)
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
    rw [mem_range_succ_iff] at hi 
    simp only [hf, ← lagrange_inversion_coeff_pow_of_le hY n i hi]
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 28]
```diff
@@ -0,0 +1,211 @@
...
+        coeff_X_pow_mul]
+    rcases t with _ | t
+    · rw [hcoe, coeff_subst_of_fixedPoint hY, hmt]
+      simp
+    have hih : ∀ l ∈ range (t + 2),
+        ((t : R) + 1) * ((P ^ k).coeff l * coeff (t + 1) (Y ^ l)) =
+          (P ^ k).coeff l * ((l : R) * (P ^ (t + 1)).coeff (t + 1 - l)) := by
+      intro l hl
+      have hl' : l ≤ t + 1 := by simpa [Nat.lt_succ_iff] using mem_range.1 hl
+      have h := ih t (by omega) l hl'
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
      rw [mem_range_succ_iff] at hl
      have h := ih t (by omega) l hl
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 29]
```diff
@@ -0,0 +1,211 @@
...
+      push_cast at h
+      rw [show ((t : R) + 1) *
+          ((P ^ k).coeff l * coeff (t + 1) (Y ^ l)) =
+            (P ^ k).coeff l *
+              (((t : R) + 1) * coeff (t + 1) (Y ^ l)) by ring, h]
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
     rw [mem_range_succ_iff] at hl
     rw_mod_cast [← ih t (by omega) l hl]
     ring
```

Comment (manman4) [reply Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: The proof is now much shorter.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 30]
```diff
@@ -0,0 +1,201 @@
...
+      rw [h, coeff_derivative]
+      ring
+    have hsum : ((t : R) + 1) * coeff (m + 1) (Y ^ k) =
+        (d⁄dX (P ^ k) * P ^ (t + 1)).coeff t := by
+      rw [hcoe, coeff_subst_of_fixedPoint hY, mul_sum, ← hconv]
+      exact sum_congr rfl hih
+    rw [hmt] at hsum
+    rw [hmt, show k + (t + 1) - k = t + 1 by omega]
+    apply nsmul_right_injective (by omega : t + 1 ≠ 0)
+    simp only [nsmul_eq_mul]
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 31]
```diff
@@ -0,0 +1,201 @@
...
+    H.coeff i * ((i : R) * (P ^ (n + 1)).coeff (n + 1 - i)) with hf
+  have hlhs : ((n + 1 : ℕ) : R) *
+      coeff (n + 1) (H.subst Y) =
+        ∑ i ∈ range (n + 2), f i := by
+    rw [coeff_subst_of_fixedPoint hY H, mul_sum]
+    refine sum_congr rfl fun i hi ↦ ?_
+    rw [mem_range_succ_iff] at hi
+    simp only [hf, ← lagrange_inversion_coeff_pow_of_le hY n i hi]
+    ring
+  rw [hlhs, coeff_mul, Nat.sum_antidiagonal_eq_sum_range_succ_mk, sum_range_succ' f (n + 1)]
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
  have hlhs : ((n + 1 : ℕ) : R) * coeff (n + 1) (H.subst Y) =
        ∑ i ∈ range (n + 2), H.coeff i * ((i : R) * (P ^ (n + 1)).coeff (n + 1 - i)) := by
    rw [coeff_subst_of_fixedPoint hY H, mul_sum]
    refine sum_congr rfl fun i hi ↦ ?_
    rw [mem_range_succ_iff] at hi
    simp only [← lagrange_inversion_coeff_pow_of_le hY n i hi]
    ring
  rw [hlhs, coeff_mul, Nat.sum_antidiagonal_eq_sum_range_succ_mk, sum_range_succ']
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 32]
```diff
@@ -0,0 +1,201 @@
...
+private lemma coeff_pow_of_lt
+    (hY : Y = X * P.subst Y) {m k : ℕ} (h : m < k) :
+    coeff m (Y ^ k) = 0 := by
+  have hpow : Y ^ k = X ^ k * (P.subst Y) ^ k := by rw [← mul_pow, ← hY]
+  simp [hpow, coeff_X_pow_mul', Nat.not_le.2 h]
+
+private lemma coeff_subst_of_fixedPoint
+    (hY : Y = X * P.subst Y) (Q : R⟦X⟧) (j : ℕ) :
+    coeff j (Q.subst Y) =
+      ∑ l ∈ range (j + 1), Q.coeff l * coeff j (Y ^ l) := by
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: Here and elsewhere: Be consistent with using dot notation or not, probably its good if you do, so (Y ^ l).coeff j as well here.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 33]
```diff
@@ -0,0 +1,201 @@
...
+      ring
+    have hcoeff : ((k : R) + (t + 1)) *
+          (d⁄dX (P ^ k) * P ^ (t + 1)).coeff t =
+        (k : R) * ((t : R) + 1) * (P ^ (k + (t + 1))).coeff (t + 1) := by
+      have h := congrArg (fun q : R⟦X⟧ ↦ q.coeff t) hpoly
+      simp only [coeff_C_mul] at h
+      rw [h, coeff_derivative]
+      ring
+    have hsum : ((t : R) + 1) * coeff (m + 1) (Y ^ k) =
+        (d⁄dX (P ^ k) * P ^ (t + 1)).coeff t := by
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: Here and elsewhere it is now possible to put things on one line instead of two.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean (hunk 32 above)
Comment (manman4) [reply Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: `coeff j (Q.subst Y)` remains. This is intentional, because Lean interprets `(Q.subst Y).coeff j` as `MvPowerSeries.coeff`, which causes the elaboration to fail.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 34]
```diff
@@ -0,0 +1,192 @@
...
+section CommRing
+
+variable {R : Type*} [CommRing R]
+variable {P Y : R⟦X⟧}
+
+private lemma constantCoeff_eq_zero
+    (hY : Y = X * P.subst Y) : Y.constantCoeff = 0 := by
+  rw [hY]
+  simp
+
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean:66]: The paper also has a remark about c_0=0 corresponding to the degenerate case A(x)=0. I think this could be formalised as well.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 35]
```diff
@@ -0,0 +1,192 @@
...
+open Finset
+open scoped PowerSeries
+
+section CommRing
+
+variable {R : Type*} [CommRing R]
+variable {P Y : R⟦X⟧}
+
+private lemma constantCoeff_eq_zero
+    (hY : Y = X * P.subst Y) : Y.constantCoeff = 0 := by
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
private lemma constantCoeff_eq_zero (hY : Y = X * P.subst Y) : Y.constantCoeff = 0 := by
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 36]
```diff
@@ -0,0 +1,192 @@
...
+  rw [hY]
+  simp
+
+private lemma hasSubst_of_fixedPoint
+    (hY : Y = X * P.subst Y) : HasSubst Y :=
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
private lemma hasSubst_of_fixedPoint (hY : Y = X * P.subst Y) : HasSubst Y :=
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean (hunk 35 above)
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: One could even think about having the assumption `(hY : Y = X * P.subst Y)` as a variable throughout as this is used in literally every result in this file.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 37]
```diff
@@ -0,0 +1,192 @@
...
+  HasSubst.of_constantCoeff_zero' (constantCoeff_eq_zero hY)
+
+private lemma coeff_pow_of_lt
+    (hY : Y = X * P.subst Y) {m k : ℕ} (h : m < k) :
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
private lemma coeff_pow_of_lt (hY : Y = X * P.subst Y) {m k : ℕ} (h : m < k) :
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 38]
```diff
@@ -0,0 +1,192 @@
...
+    (Y ^ k).coeff m = 0 := by
+  have hpow : Y ^ k = X ^ k * (P.subst Y) ^ k := by rw [← mul_pow, ← hY]
+  simp [hpow, coeff_X_pow_mul', Nat.not_le.2 h]
+
+private lemma coeff_subst_of_fixedPoint
+    (hY : Y = X * P.subst Y) (Q : R⟦X⟧) (j : ℕ) :
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
private lemma coeff_subst_of_fixedPoint (hY : Y = X * P.subst Y) (Q : R⟦X⟧) (j : ℕ) :
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 39]
```diff
@@ -0,0 +1,192 @@
...
+The coefficient ring is assumed to have no additive torsion because the inductive proof cancels
+multiplication by a positive natural number. -/
+theorem lagrange_inversion_coeff_pow
+    (hY : Y = X * P.subst Y) (n k : ℕ) :
+    ((n + k : ℕ) : R) * (Y ^ k).coeff (n + k) = (k : R) * (P ^ (n + k)).coeff n := by
+  rcases eq_or_ne (n + k) 0 with hnk | hnk
+  · obtain ⟨rfl, rfl⟩ := Nat.add_eq_zero_iff.mp hnk
+    simp
+  · simpa [show n + k - 1 + 1 = n + k by omega] using
+      lagrange_inversion_coeff_pow_of_le hY (n + k - 1) k (by omega)
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: This result is not used in the proof of the general lagrange_burmann_coeff. Maybe it is shorter deriving it from the general formula? Have you tried that?

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 40]
```diff
@@ -0,0 +1,192 @@
...
+  grind [coeff_derivative]
+
+end TorsionFree
+
+section Field
+
+variable {K : Type*} [Field K] [CharZero K]
+
+/-- The usual coefficient form of the formal Lagrange inversion formula. This is the
+case `H = X`, equivalently `k = 1`, of `lagrange_burmann_coeff`. -/
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: One should probably also record the division-variant of the general H case for fields of characteristic 0.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean (hunk 39 above)
Comment (manman4) [reply Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: I will try it.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 41]
```diff
@@ -0,0 +1,192 @@
...
+
+section TorsionFree
+
+variable {R : Type*} [CommRing R] [IsAddTorsionFree R]
+variable {P Y : R⟦X⟧}
+
+private theorem lagrange_inversion_coeff_pow_of_le
+    (hY : Y = X * P.subst Y) :
+    ∀ m : ℕ, ∀ k ≤ m + 1,
+      ((m + 1 : ℕ) : R) * (Y ^ k).coeff (m + 1) =
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: ChatGPT claims one can avoid these double coercions like `((m+1 : N) : R) *` by replacing them by `(m + 1) \smul`. I have not checked it fully, but some initial experiments by hand seemed promising.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 42]
```diff
@@ -0,0 +1,192 @@
...
+`(n + k) * [X^(n+k)] Y^k = k * [X^n] P^(n+k)`.
+
+We also give the Lagrange–Bürmann form
+
+`(n + 1) * [X^(n+1)] H(Y) = [X^n] (H' * P^(n+1))`
+
+for a formal power series `H`, and the usual divided coefficient formula over a field of
+characteristic zero.
+
+The proof follows the induction in the reference below.
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: I think this sentence can be removed. Alternatively, it could fit in a section `## Implementation details`. 
In addition, the module docstring is missing a section `## Main results`.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 43]
```diff
@@ -0,0 +1,192 @@
...
+# Lagrange inversion formula for formal power series
+
+This file proves the one-variable Lagrange inversion formula over a commutative ring without
+additive torsion. Let `P` and `Y` be formal power series satisfying
+
+`Y = X * P(Y)`.
+
+Then, for natural numbers `n` and `k`,
+
+`(n + k) * [X^(n+k)] Y^k = k * [X^n] P^(n+k)`.
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: If I am not mistaken, the spacing rules also apply to docstrings, so it should be [X ^ n] instead of [X^n].

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean (hunk 37 above)
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: ChatGPT produced the following variant only using Y.constantCoeff = 0: 

```suggestion
private lemma coeff_pow_of_lt' (hY : Y.constantCoeff = 0) {m k : ℕ} (h : m < k) :
    (Y ^ k).coeff m = 0 := by
  rw [Y.eq_X_mul_shift_add_const, hY]
  simp [mul_pow, coeff_X_pow_mul', Nat.not_le.2 h]
```

Which could be a general lemma that can be put in another file and just applied here.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean (hunk 38 above)
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: Similarly this here is a general purpose replacement that might be worth putting in another file.

```suggestion
private lemma coeff_subst_of_constantCoeff_zero (hY₀ : Y.constantCoeff = 0) (Q : R⟦X⟧) (j : ℕ) :
    coeff j (Q.subst Y) = ∑ l ∈ range (j + 1), Q.coeff l * (Y ^ l).coeff j := by
  rw [coeff_subst' (HasSubst.of_constantCoeff_zero' hY₀), 
    finsum_eq_sum_of_support_subset (s := range (j + 1))]
  · simp [smul_eq_mul]
  · intro l hl
    simp only [mem_coe, mem_range]
    by_contra hlj
    simp [coeff_pow_of_lt' hY₀ (by omega : j < l)] at hl
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean (hunk 37 above)
Comment (manman4) [reply Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: I’ll move it to a more appropriate file.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 44]
```diff
@@ -0,0 +1,218 @@
...
+  rw [hsubst] at hY
+  have hunit : IsUnit (1 - X * Q.subst Y) := by
+    apply MvPowerSeries.isUnit_iff_constantCoeff.mpr
+    change IsUnit (constantCoeff (1 - X * Q.subst Y))
+    simp
+  apply hunit.mul_right_cancel
+  rw [zero_mul]
+  calc
+    Y * (1 - X * Q.subst Y) = Y - X * (Y * Q.subst Y) := by ring
+    _ = 0 := sub_eq_zero.mpr hY
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: Here is a golfed proof, suggested by Claude and then simplified a bit by hand. You have to add the import 
import Mathlib.RingTheory.PowerSeries.Inverse
and remove the one for MvPowerSeries.

```suggestion
theorem eq_zero_of_fixedPoint_of_constantCoeff_eq_zero' (hP : P.constantCoeff = 0) : Y = 0 := by
  have hsubst := hasSubst_of_fixedPoint hY
  obtain ⟨Q, rfl⟩ := X_dvd_iff.mpr hP
  rw [subst_mul hsubst, subst_X hsubst] at hY
  have hunit : IsUnit (1 - X * Q.subst Y) := by
    simp [isUnit_iff_constantCoeff]
  rw [← hunit.mul_left_eq_zero]
  linear_combination hY
```

Comment (Julian-Kuelshammer) [reply Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: Let me reiterate that for this proof to work you have to replace import Mathlib.RingTheory.MvPowerSeries.Inverse by import Mathlib.RingTheory.PowerSeries.Inverse

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 45]
```diff
@@ -461,6 +461,14 @@ theorem eq_X_mul_shift_add_const (φ : R⟦X⟧) :
   · simp only [coeff_succ_X_mul, coeff_mk, map_add, coeff_C, n.succ_ne_zero,
       ite_false, add_zero]
 
+/-- A coefficient of `f ^ k` below degree `k` vanishes if the constant coefficient of `f`
+vanishes. -/
+theorem coeff_pow_eq_zero_of_lt {f : R⟦X⟧} (hf : f.constantCoeff = 0) {m k : ℕ}
+    (h : m < k) : (f ^ k).coeff m = 0 := by
+  rw [f.eq_X_mul_shift_add_const, hf]
+  rw [map_zero, add_zero, (commute_X _).symm.mul_pow, coeff_X_pow_mul',
+    ite_eq_right (Nat.not_le.2 h)]
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/Basic.lean]: Consecutive rewrites should be merged:
```suggestion
  rw [f.eq_X_mul_shift_add_const, hf, map_zero, add_zero, (commute_X _).symm.mul_pow, 
    coeff_X_pow_mul', ite_eq_right (Nat.not_le.2 h)]
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 46]
```diff
@@ -0,0 +1,212 @@
...
+We also give the Lagrange–Bürmann form
+
+`(n + 1) * [X ^ (n + 1)] H(Y) = [X ^ n] (H' * P ^ (n + 1))`
+
+for a formal power series `H`, together with the corresponding divided formulas over a field of
+characteristic zero.
+
+## Main results
+
+* `PowerSeries.eq_zero_of_fixedPoint_of_constantCoeff_eq_zero`
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: I don't think this deserves to be put as a main result.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 47]
```diff
@@ -0,0 +1,212 @@
...
+* `PowerSeries.lagrange_burmann_coeff`
+* `PowerSeries.lagrange_inversion_coeff_pow`
+* `PowerSeries.lagrange_burmann_coeff_div`
+* `PowerSeries.lagrange_inversion_coeff`
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: Descriptions of these results are missing.

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 48]
```diff
@@ -250,6 +250,21 @@ theorem coeff_subst' {b : S⟦X⟧} (hb : HasSubst b) (f : R⟦X⟧) (e : ℕ) :
...
 
+/-- The coefficient of a substitution by a power series with zero constant coefficient is a
+finite sum. -/
+theorem coeff_subst_of_constantCoeff_zero {b : R⟦X⟧} (hb : b.constantCoeff = 0)
+    (f : R⟦X⟧) (e : ℕ) :
+    coeff e (f.subst b) =
+      ∑ d ∈ Finset.range (e + 1), f.coeff d * (b ^ d).coeff e := by
+  rw [coeff_subst' (HasSubst.of_constantCoeff_zero' hb),
+    finsum_eq_sum_of_support_subset (s := Finset.range (e + 1))]
+  · simp [smul_eq_mul]
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean]:
```suggestion
  · simp
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 49]
```diff
@@ -250,6 +250,21 @@ theorem coeff_subst' {b : S⟦X⟧} (hb : HasSubst b) (f : R⟦X⟧) (e : ℕ) :
         coeff d f • PowerSeries.coeff e (b ^ d)) := by
   simp [PowerSeries.coeff, coeff_subst hb]
 
+/-- The coefficient of a substitution by a power series with zero constant coefficient is a
+finite sum. -/
+theorem coeff_subst_of_constantCoeff_zero {b : R⟦X⟧} (hb : b.constantCoeff = 0)
+    (f : R⟦X⟧) (e : ℕ) :
+    coeff e (f.subst b) =
+      ∑ d ∈ Finset.range (e + 1), f.coeff d * (b ^ d).coeff e := by
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean]: theorem coeff_subst_of_constantCoeff_zero {b : R⟦X⟧} (hb : b.constantCoeff = 0) (f : R⟦X⟧) (e : ℕ) :
    coeff e (f.subst b) = ∑ d ∈ Finset.range (e + 1), f.coeff d * (b ^ d).coeff e := by

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 50]
```diff
@@ -250,6 +250,21 @@ theorem coeff_subst' {b : S⟦X⟧} (hb : HasSubst b) (f : R⟦X⟧) (e : ℕ) :
...
+  rw [coeff_subst' (HasSubst.of_constantCoeff_zero' hb),
+    finsum_eq_sum_of_support_subset (s := Finset.range (e + 1))]
+  · simp [smul_eq_mul]
+  · intro d hd
+    simp only [Finset.mem_coe, Finset.mem_range]
+    by_contra hde
+    have hed : e < d := Nat.lt_of_not_ge fun h ↦ hde (Nat.lt_succ_iff.mpr h)
+    simp [coeff_pow_eq_zero_of_lt hb hed] at hd
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean]:
```suggestion
    simp [coeff_pow_eq_zero_of_lt hb (by omega : e < d)] at hd
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 51]
```diff
@@ -0,0 +1,212 @@
...
+`(n + k) * [X ^ (n + k)] Y ^ k = k * [X ^ n] P ^ (n + k)` for all natural numbers
+`n` and `k`. -/
+theorem lagrange_inversion_coeff_pow
+    (n k : ℕ) :
+    (n + k) • (Y ^ k).coeff (n + k) = k • (P ^ (n + k)).coeff n := by
+  rcases k with _ | k
+  · by_cases hn : n = 0
+    · subst n
+      simp
+    · simp [hn]
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
  · simp +contextual
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 52]
```diff
@@ -0,0 +1,212 @@
...
+  have hYsubst := hasSubst_of_fixedPoint hY
+  have h := lagrange_burmann_coeff hY (n + k) (X ^ (k + 1))
+  rw [subst_pow hYsubst, subst_X hYsubst, derivative_pow, derivative_X] at h
+  simp only [Nat.add_sub_cancel, mul_one] at h
+  rw [mul_assoc, coeff_natCast_mul, coeff_X_pow_mul] at h
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
  simp only [mul_assoc, coeff_natCast_mul] at h
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 53]
```diff
@@ -0,0 +1,212 @@
...
+  simpa [nsmul_eq_mul, add_assoc] using h
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
  simp only [subst_pow hYsubst, subst_X hYsubst, derivative_pow, derivative_X, mul_assoc, 
    coeff_natCast_mul, add_assoc] at h
  simpa using h
```

**Comment by manman4** [comment]
LLM-generated

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 54]
```diff
@@ -0,0 +1,202 @@
...
+* [Erlang Surya and Lutz Warnke, *Lagrange Inversion Formula by
+  Induction*][surya_warnke_2023]
+-/
+
+@[expose] public section
+
+namespace PowerSeries
+
+open Finset
+open scoped PowerSeries
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: It seems this is not necessary since you now have `namespace PowerSeries`.

```suggestion
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 55]
```diff
@@ -0,0 +1,202 @@
...
+* `PowerSeries.lagrange_inversion_coeff_pow`: the coefficient formula for powers of `Y`.
+* `PowerSeries.lagrange_burmann_coeff_div`: the divided Lagrange–Bürmann formula over a field of
+  characteristic zero.
+* `PowerSeries.lagrange_inversion_coeff`: the usual divided coefficient formula over a field of
+  characteristic zero.
+
+## References
+
+* [Erlang Surya and Lutz Warnke, *Lagrange Inversion Formula by
+  Induction*][surya_warnke_2023]
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
* [Erlang Surya and Lutz Warnke, *Lagrange Inversion Formula by Induction][surya_warnke_2023]
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 56]
```diff
@@ -0,0 +1,202 @@
...
+theorem lagrange_burmann_coeff (n : ℕ) (H : R⟦X⟧) :
+    (n + 1) • coeff (n + 1) (H.subst Y) = (d⁄dX H * P ^ (n + 1)).coeff n := by
+  simp only [nsmul_eq_mul]
+  have hlhs : ((n + 1 : ℕ) : R) * coeff (n + 1) (H.subst Y) =
+        ∑ i ∈ range (n + 2), H.coeff i * ((i : R) * (P ^ (n + 1)).coeff (n + 1 - i)) := by
+    rw [coeff_subst_of_constantCoeff_zero (constantCoeff_eq_zero hY) H, mul_sum]
+    refine sum_congr rfl fun i hi ↦ ?_
+    rw [mem_range_succ_iff] at hi
+    have h := lagrange_inversion_coeff_pow_of_le hY n i hi
+    simp only [nsmul_eq_mul] at h
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
  have hlhs : (n + 1) • coeff (n + 1) (H.subst Y) =
        ∑ i ∈ range (n + 2), H.coeff i * (i • (P ^ (n + 1)).coeff (n + 1 - i)) := by
    rw [coeff_subst_of_constantCoeff_zero (constantCoeff_eq_zero hY) H, smul_sum]
    refine sum_congr rfl fun i hi ↦ ?_
    rw [mem_range_succ_iff] at hi
    have h := lagrange_inversion_coeff_pow_of_le hY n i hi
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 57]
```diff
@@ -0,0 +1,202 @@
...
+    rw [← h]
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: Also remove the `have h` line and replace h in this rewrite by the definition of h.

Comment (Julian-Kuelshammer) [reply Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: It is even possible to put the previous rw at hi line in there.

**Comment by wwylele** [comment]
I see that this is now generalized to PowerSeries for P 👍 Just a reminder to update the PR title

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 58]
```diff
@@ -0,0 +1,196 @@
...
+      rw [← coeff_C_mul, hpoly, coeff_C_mul, coeff_derivative]
+      ring
+    have hsum : ((t : R) + 1) * (Y ^ k).coeff (m + 1) = (d⁄dX (P ^ k) * P ^ (t + 1)).coeff t := by
+      rw [hcoe, coeff_subst_of_constantCoeff_zero (constantCoeff_eq_zero hY), mul_sum, ← hconv]
+      exact sum_congr rfl hih
+    rw [hmt] at hsum
+    rw [hmt, show k + (t + 1) - k = t + 1 by omega]
+    apply nsmul_right_injective (by omega : t + 1 ≠ 0)
+    push_cast
+    linear_combination ((k : R) + (t + 1)) * hsum + hcoeff
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: I cleaned this code up a little, partially with the help of Claude.

```suggestion
  intro m
  induction m using Nat.strong_induction_on with
  | h m ih =>
    intro k hk
    rcases Nat.eq_zero_or_pos k with rfl | hk0
    · simp
    obtain ⟨t, hmt⟩ : ∃ t, m + 1 = k + t := ⟨m + 1 - k, by omega⟩
    have hcoe : (Y ^ k).coeff (m + 1) = coeff t ((P ^ k).subst Y) := by
      nth_rw 1 [hmt, hY, mul_pow, ← subst_pow (hasSubst_of_fixedPoint hY), add_comm k t,
        coeff_X_pow_mul]
    rcases t with _ | t
    · rw [hcoe, coeff_subst_of_constantCoeff_zero (constantCoeff_eq_zero hY), hmt]
      simp
    have hih : ∀ l ∈ range (t + 2), (t + 1) • ((P ^ k).coeff l * (Y ^ l).coeff (t + 1)) =
        (P ^ k).coeff l * (l • (P ^ (t + 1)).coeff (t + 1 - l)) := by
      intro l hl
      have h := ih t (by omega) l (mem_range_succ_iff.mp hl)
      rw [show (t + 1) • ((P ^ k).coeff l * (Y ^ l).coeff (t + 1)) =
          (P ^ k).coeff l * ((t + 1) • (Y ^ l).coeff (t + 1)) by ring, h]
    have hconv :
        ∑ l ∈ range (t + 2), (P ^ k).coeff l * (l • (P ^ (t + 1)).coeff (t + 1 - l)) =
          (d⁄dX (P ^ k) * P ^ (t + 1)).coeff t := by
      rw [coeff_mul, Nat.sum_antidiagonal_eq_sum_range_succ_mk, sum_range_succ']
      simp only [zero_smul, mul_zero, add_zero]
      refine sum_congr rfl fun p _ ↦ ?_
      rw [coeff_derivative]
      push_cast
      ring
    have hpoly : (k + t + 1) • (d⁄dX (P ^ k) * P ^ (t + 1)) = k • d⁄dX (P ^ (k + (t + 1))) := by
      rw [derivative_pow, derivative_pow, show k + (t + 1) - 1 = (k - 1) + (t + 1) by omega,
        pow_add]
      push_cast
      ring
    have hcoeff : (k + t + 1) • (d⁄dX (P ^ k) * P ^ (t + 1)).coeff t =
        k • (t + 1) • (P ^ (k + (t + 1))).coeff (t + 1) := by
      have h := congrArg (coeff t) hpoly
      simp only [nsmul_eq_mul, coeff_natCast_mul, coeff_derivative] at h
      push_cast at h
      linear_combination h
    have hsum : (t + 1) • (Y ^ k).coeff (m + 1) = (d⁄dX (P ^ k) * P ^ (t + 1)).coeff t := by
      rw [hcoe, coeff_subst_of_constantCoeff_zero (constantCoeff_eq_zero hY), smul_sum, ← hconv]
      exact sum_congr rfl hih
    apply nsmul_right_injective (by omega : t + 1 ≠ 0)
    simp [hmt] at *
    linear_combination (k + t + 1) • hsum + hcoeff
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 59]
```diff
@@ -0,0 +1,190 @@
...
+include hY
+
+private lemma constantCoeff_eq_zero : Y.constantCoeff = 0 := by
+  simpa using congrArg constantCoeff hY
+
+private lemma hasSubst_of_fixedPoint : HasSubst Y :=
+  HasSubst.of_constantCoeff_zero' (constantCoeff_eq_zero hY)
+
+/-- If `Y = X * P(Y)` and the constant coefficient of `P` is zero, then `Y = 0`. -/
+theorem eq_zero_of_fixedPoint_of_constantCoeff_eq_zero (hP : P.constantCoeff = 0) : Y = 0 := by
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean:71]: In a mathematical article, I would probably use lemma for this result.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 60]
```diff
@@ -0,0 +1,190 @@
...
+        (P ^ k).coeff l * (l • (P ^ (t + 1)).coeff (t + 1 - l)) := by
+      intro l hl
+      have h := ih t (by omega) l (mem_range_succ_iff.mp hl)
+      rw [show (t + 1) • ((P ^ k).coeff l * (Y ^ l).coeff (t + 1)) =
+          (P ^ k).coeff l * ((t + 1) • (Y ^ l).coeff (t + 1)) by ring, h]
+    have hconv :
+        ∑ l ∈ range (t + 2), (P ^ k).coeff l * (l • (P ^ (t + 1)).coeff (t + 1 - l)) =
+          (d⁄dX (P ^ k) * P ^ (t + 1)).coeff t := by
+      rw [coeff_mul, Nat.sum_antidiagonal_eq_sum_range_succ_mk, sum_range_succ']
+      simp only [zero_smul, mul_zero, add_zero]
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: These two could be combined to one rw or simp call.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 61]
```diff
@@ -0,0 +1,190 @@
...
+      refine sum_congr rfl fun p _ ↦ ?_
+      rw [coeff_derivative]
+      push_cast
+      ring
+    have hpoly : (k + t + 1) • (d⁄dX (P ^ k) * P ^ (t + 1)) =
+        k • d⁄dX (P ^ (k + (t + 1))) := by
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
    have hpoly : (k + t + 1) • (d⁄dX (P ^ k) * P ^ (t + 1)) = k • d⁄dX (P ^ (k + (t + 1))) := by
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 62]
```diff
@@ -0,0 +1,190 @@
...
+      push_cast
+      ring
+    have hcoeff : (k + t + 1) • (d⁄dX (P ^ k) * P ^ (t + 1)).coeff t =
+        k • (t + 1) • (P ^ (k + (t + 1))).coeff (t + 1) := by
+      have h := congrArg (coeff t) hpoly
+      simp only [nsmul_eq_mul, coeff_natCast_mul, coeff_derivative] at h
+      push_cast at h
+      linear_combination h
+    have hsum : (t + 1) • (Y ^ k).coeff (m + 1) =
+        (d⁄dX (P ^ k) * P ^ (t + 1)).coeff t := by
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
    have hsum : (t + 1) • (Y ^ k).coeff (m + 1) = (d⁄dX (P ^ k) * P ^ (t + 1)).coeff t := by
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 63]
```diff
@@ -0,0 +1,190 @@
...
+  simp only [subst_pow hYsubst, subst_X hYsubst, derivative_pow, derivative_X, mul_assoc,
+    coeff_natCast_mul, add_assoc] at h
+  simpa using h
+
+end TorsionFree
+
+section Field
+
+variable {K : Type*} [Field K] [CharZero K]
+variable (P Y : K⟦X⟧) (hY : Y = X * P.subst Y)
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: For consistency as suggested by Claude.

```suggestion
variable {P Y : K⟦X⟧} (hY : Y = X * P.subst Y)
```

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 64]
```diff
@@ -0,0 +1,190 @@
...
+variable {P Y : R⟦X⟧}
+variable (hY : Y = X * P.subst Y)
+include hY
+
+private theorem lagrange_inversion_coeff_pow_of_le : ∀ m : ℕ, ∀ k ≤ m + 1,
+      (m + 1) • (Y ^ k).coeff (m + 1) = k • (P ^ (m + 1)).coeff (m + 1 - k) := by
+  intro m
+  induction m using Nat.strong_induction_on with
+  | h m ih =>
+    intro k hk
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
private theorem lagrange_inversion_coeff_pow_of_le (m : ℕ) (k : ℕ) (hk : k ≤ m + 1) :
      (m + 1) • (Y ^ k).coeff (m + 1) = k • (P ^ (m + 1)).coeff (m + 1 - k) := by
  induction m using Nat.strong_induction_on generalizing k with
  | h m ih =>
```

Comment (Julian-Kuelshammer) [reply Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: Sorry `(m k : \N)` would be even better.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 65]
```diff
@@ -0,0 +1,190 @@
...
+        coeff_X_pow_mul]
+    rcases t with _ | t
+    · rw [hcoe, coeff_subst_of_constantCoeff_zero (constantCoeff_eq_zero hY), hmt]
+      simp
+    have hih : ∀ l ∈ range (t + 2), (t + 1) • ((P ^ k).coeff l * (Y ^ l).coeff (t + 1)) =
+        (P ^ k).coeff l * (l • (P ^ (t + 1)).coeff (t + 1 - l)) := by
+      intro l hl
+      have h := ih t (by omega) l (mem_range_succ_iff.mp hl)
+      rw [show (t + 1) • ((P ^ k).coeff l * (Y ^ l).coeff (t + 1)) =
+          (P ^ k).coeff l * ((t + 1) • (Y ^ l).coeff (t + 1)) by ring, h]
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
      rw [← mul_smul_comm, h]
```

Comment (Julian-Kuelshammer) [reply Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: And then it is probably not necessary to define h in the line before and just paste it in.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean [hunk 66]
```diff
@@ -0,0 +1,190 @@
...
+      rw [coeff_mul, Nat.sum_antidiagonal_eq_sum_range_succ_mk, sum_range_succ']
+      simp only [zero_smul, mul_zero, add_zero]
+      refine sum_congr rfl fun p _ ↦ ?_
+      rw [coeff_derivative]
+      push_cast
+      ring
+    have hpoly : (k + t + 1) • (d⁄dX (P ^ k) * P ^ (t + 1)) =
+        k • d⁄dX (P ^ (k + (t + 1))) := by
+      rw [derivative_pow, derivative_pow, show k + (t + 1) - 1 = (k - 1) + (t + 1) by omega,
+        pow_add]
```
Comment (Julian-Kuelshammer) [inline Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]:
```suggestion
      rw [derivative_pow, derivative_pow, Nat.sub_add_comm hk0, pow_add]
```

**Comment by Julian-Kuelshammer** [comment]
You should also include in the PR description that we used Aristotle for code generation and ChatGPT and Claude for cleanup.

File: Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean (hunk 64 above)
Comment (Julian-Kuelshammer) [reply Mathlib/RingTheory/PowerSeries/LagrangeInversion.lean]: Sorry, even better is probably {m k : \N}, but then two explicit variables have to be removed below.

**Comment by Julian-Kuelshammer** [comment]
I have no further comments, LGTM now. Maybe @wwylele or @JX-Mo want to take another look, now that the PR has been cleaned up quite a bit.
